* VRM_ZoPart8.qsch
Rload VOUT 0 220
Vac VOUT VO AC Vbode
Vref REF 0 DC 0.8
Vin VIN 0 DC 10
M_PMOS VOUT N02 VIN VIN PFET PMOS
Cout N07 N08 470µ
Rfb VO N01 420K
Rg N01 0 80K
Resr VOUT N07 1m
R0 N04 0 1Meg
Cea N06 0 47p
Ebuf N02 0 N05 0 1
CinEA FB 0 22p
Lesl N08 0 0.22n
Izout 0 VOUT AC Izout
L2 FB N01 Lopen
C1 FB 0 Copen
G1 0 N04 FB REF 1m
Ebuf1 N03 0 N04 0 1
Rbw N03 N05 220K
Cbw N05 0 22p
R1 N04 N06 R1
.model PFET PMOS Kp=100 eta=10m VT0 = -1
.step param x list 0 1 2 3 4 5
.param R1={if(x - int(x/2)*2,3Meg,1Meg)}
.param Izout = {if(x < 2, 0, 1)}
.param Vbode = {if(x < 2, 1, 0)}
.param Lopen = {if(x < 4, 1f, 1K)}
.param Copen = {if(x < 4, 1f, 1K)} 
.ac dec 256 1 100Meg
.plot AC V(VOUT)/V(VO)
.plot AC V(VOUT)
.lib C:\Users\mn080015\QSPICE\PMOS.txt
.end
